US04918073
(d) 3,3-Bis(4-fluorophenyl)propanol
57.9 g (0.221 mol) of 3,3-bis(4-fluorophenyl)propionic acid were dissolved in 200 ml of absolute ether and the solution was added dropwise to a suspension of 10.9 g (0.287 mol) of LiAlH4 in 150 ml of absolute ether. When the dropwise addition had ended, the mixture was subsequently stirred for a further 30 minutes and, for hydrolysis, 175 ml of saturated sodium potassium tartrate solution and 400 ml of 10% strength H2SO4 were added dropwise in succession. After filtration, the phases were separated and the ethereal phase was washed with NaHCO3 solution and NaCl solution, dried and concentrated.

reactant | 3,3-bis(4-fluorophenyl)propionic acid | 0.221 mol, 57.9 g | FC1=CC=C(C=C1)C(CC(=O)O)C1=CC=C(C=C1)F | C15H12F2O2
reactant | LiAlH4 | 0.287 mol, 10.9 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | sodium potassium tartrate | 175 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 3,3-Bis(4-fluorophenyl)propanol | FC1=CC=C(C=C1)C(CCO)C1=CC=C(C=C1)F | C15H14F2O
